US04028404
p-(Cyclohexylcarbonyl)hydratropic acid
2-(p-Cyclohexylcarbonyl)phenyl-2-cyanopropionic acid, ethyl ester (2.55 g, crude) was added to a mixture of concentrated sulphuric acid (5 ml), water (5 ml) and glacial acetic acid (17 ml) and the mixture was heated under reflux for 22 hours and cooled. Water (35 ml) was added and the mixture was shaken with ether (2× 50 ml). The ether solution was extracted with 2N sodium hydroxide (3× 50 ml) and the alkaline extract was acidified to pH2 with 5N hydrochloric acid. The acidic mixture was extracted with ether (2× 75 ml) and the extracts were dried over magnesium sulphate, filtered and evaporated to yield a brown oil.

reactant | 2-(p-Cyclohexylcarbonyl)phenyl-2-cyanopropionic acid, ethyl ester | 2.55 g | C1CCC(CC1)C(=O)C1=C(C=CC=C1)C(C(=O)OCC)(C)C#N | C19H23NO3
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 5 ml | O | H2O
reactant | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
reactant | Water | 35 ml | O | H2O
reactant | ether | 50 ml | CCOCC | C4H10O
product | p-(Cyclohexylcarbonyl)hydratropic acid | C1(CCCCC1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C16H20O3
